US08633207B2
To a 0.5 M solution of 2-bromo-2-(5-fluoropyridin-2-yl)acetic acid in 99:1 DCM/DMF is added oxalyl chloride (1.2 equiv) and the mixture is allowed to stir at rt for 30 min or until the reaction is substantially complete. The mixture is then cooled to 0° C. and 2-aminobenzamide (1 equiv) in pyridine (2 mL) is added slowly, and the mixture is allowed to warm to rt over ca. 1 h. The mixture is concentrated under reduced pressure and the residue is purified by chromatography to afford 2-(2-bromo-2-(5-fluoropyridin-2-yl)acetamido)benzamide.

reactant | 2-bromo-2-(5-fluoropyridin-2-yl)acetic acid | BrC(C(=O)O)C1=NC=C(C=C1)F | C7H5BrFNO2
reactant | DCM DMF | C(Cl)Cl.CN(C)C=O
reactant | oxalyl chloride | 1.2 equiv | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-aminobenzamide | 1 equiv | NC1=C(C(=O)N)C=CC=C1 | C7H8N2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-bromo-2-(5-fluoropyridin-2-yl)acetamido)benzamide | BrC(C(=O)NC1=C(C(=O)N)C=CC=C1)C1=NC=C(C=C1)F | C14H11BrFN3O2
